US20010046953A1
Preparation of N-Methoxy-N-nonanoyl Pivalamide:
The procedure is the same as in EXAMPLE I except that pivalic anhydride is substituted for acetic anhydride in the acylation of N-methoxynonanamide.

reactant | pivalic anhydride | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-methoxynonanamide | CONC(CCCCCCCC)=O | C10H21NO2
product | N-Methoxy-N-nonanoyl Pivalamide | CON(C(C(C)(C)C)=O)C(CCCCCCCC)=O | C15H29NO3
